US07777047B2
N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a mixture of ethyl (2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate (0.27 g), lithium borohydride (70 mg) and tetrahydrofuran (10 mL) was added methanol (2 mL), and the mixture was stirred at room temperature for 5 hr. Diluted hydrochloric acid was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1-7:3), and the obtained colorless oil was crystallized from ethyl acetate-hexane to give the title compound (46 mg, yield: 19%) as colorless plate crystals.

reactant | ethyl (2-{7-[(2-thienylsulfonyl)amino]-1H-indol-2-yl}-4,5-dihydro-1,3-thiazol-5-yl)acetate | 0.27 g | S1C(=CC=C1)S(=O)(=O)NC=1C=CC=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC | C19H19N3O4S3
reactant | lithium borohydride | 70 mg | [BH4-].[Li+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | N-{2-[5-(2-hydroxyethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 46 mg, yield: 19% | OCCC1CN=C(S1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C17H17N3O3S3
